US07897773B2
0.5 g of dihydroquinolin-1(2H)-ylcarbonyl)-8-azabicyclo[3.2.1]oct-2-ene-3-yl trifluoromethanesulfonate, 0.419 g of 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine, 0.1 g of lithium chloride, 0.765 g of potassium phosphate, 0.067 g of 2′-(dimethylamino)-2-biphenylpalladium(II)chloride dinorbornylphosphine and 4.3 ml of dioxane are introduced into a 10 ml glass tube. The tube is sealed, and then heated at 100° C. under microwave radiation for 50 minutes. Water and ethyl acetate are added. The aqueous phase is extracted three times with ethyl acetate. The organic phases are combined, dried over sodium sulfate and the solvent is evaporated off under reduced pressure. The residue is chromatographed on silica gel with a 3/7 mixture of heptane/ethyl acetate. 0.3 g of 1-[(3-pyridin-3-yl-8-azabicyclo[3.2.1]oct-2-en-8-yl)carbonyl]-1,2,3,4-tetrahydroquinoline is obtained.

reactant | 8-azabicyclo[3.2.1]oct-2-ene-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC2CCC(C1)N2)(F)F | C8H10F3NO3S
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.419 g | CC1(OB(OC1(C)C)C=1C=NC=CC1)C | C11H16BNO2
reactant | lithium chloride | 0.1 g | [Cl-].[Li+]
reactant | potassium phosphate | 0.765 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dioxane | 4.3 ml | O1CCOCC1 | C4H8O2
catalyst | 2′-(dimethylamino)-2-biphenylpalladium(II)chloride dinorbornylphosphine | 0.067 g | CN(C)C1=CC=CC=C1C2=CC=CC=[C-]2.C1C[C@H]2C[C@@H]1CC2PC3C[C@H]4CC[C@@H]3C4.Cl[Pd+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-[(3-pyridin-3-yl-8-azabicyclo[3.2.1]oct-2-en-8-yl)carbonyl]-1,2,3,4-tetrahydroquinoline | 0.3 g | N1=CC(=CC=C1)C1=CC2CCC(C1)N2C(=O)N2CCCC1=CC=CC=C21 | C22H23N3O
